US07253158B2
[1-(2,4-Dimethoxy-benzyl)-4,4-dimethyl-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]-carbamic acid tert-butyl ester (260 mg, 0.64 mmol) was dissolved in methanol (10 ml). Palladium on charcoal (30 mg, 10%) was added and the mixture was hydrogenated at room temperature for 90 minutes. The catalyst was filtered off and the filtrate was evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate=1:1) to yield 220 mg (84%) of [1-(2,4-dimethoxy-benzyl)-4,4-dimethyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester as a colourless oil; MS: m/e=407.4 (MH+).

reactant | [1-(2,4-Dimethoxy-benzyl)-4,4-dimethyl-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]-carbamic acid tert-butyl ester | 0.64 mmol, 260 mg | C(C)(C)(C)OC(NC1C(N(CC=CC1(C)C)CC1=C(C=C(C=C1)OC)OC)=O)=O | C22H32N2O5
solvent | methanol | 10 ml | CO | CH4O
catalyst | Palladium on charcoal | 30 mg | [Pd] | Pd
product | [1-(2,4-dimethoxy-benzyl)-4,4-dimethyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | 220 mg, 84% | C(C)(C)(C)OC(NC1C(N(CCCC1(C)C)CC1=C(C=C(C=C1)OC)OC)=O)=O | C22H34N2O5
